US04603013
A suspension of 19.5 g of 15α-hydroxy-4,9-estradiene-3,17-dione in 300 ml of toluene is mixed, under ice water cooling, successively with 26.5 g of pivalic acid anhydride and 18.6 g of 4-dimethylaminopyridine. Stirring is then performed for 72 hours at room temperature, then the reaction solution is poured into saturated sodium hydrogen carbonate solution, stirred for 30 more minutes at room temperature and extracted with ethyl acetate. The ethyl acetate extracts are washed with saturated ammonium chloride solution and saturated sodium chloride solution, dried with sodium sulfate and concentrated in a water jet vacuum. The crude product, thus obtained, is filtered with aluminum oxide, Merck, neutral, step III, with hexane/ethyl acetate. The main fraction is crystallized from ethyl acetate. 14.4 g (79% of theory) of 4,9,15-estratriene-3,17-dione with a melting point of 182° to 183° C. are obtained.

reactant | 15α-hydroxy-4,9-estradiene-3,17-dione | 19.5 g | O[C@H]1CC([C@]2(C)[C@@H]1[C@@H]1CCC3=CC(CCC3=C1CC2)=O)=O | C18H22O3
reactant | pivalic acid anhydride | 26.5 g | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 4-dimethylaminopyridine | 18.6 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 4,9,15-estratriene-3,17-dione | 14.4 g, 79% | C[C@@]12C(C=C[C@H]1[C@@H]1CCC3=CC(CCC3=C1CC2)=O)=O | C18H20O2
